US04431735
Fifty grams (wet weight) of acrylamide gel entrapped cell of Monocillium spp. (ATCC 20621), prepared through the procedures described in Example 4, were added to 2 l of centrifuged rifamycin B fermentation broth (6100 mgr rifamycin B/l). After reaction at 45° C. for 25 hours were aeration and agitation, the immobilized enzyme pellets were recovered through filtration on a sintered glass. It was extensively washed with 500 ml of acetone. The residual precipitates were completely solubilized by addition of another 500 ml of acetone. Thereto, 100 ml of ascrobic acid solution (10% in water) were added dropwisely while gently stirring. After confirming complete reduction to rifamycin SV, the pH was adjusted to 3.5 and the acetone was removed by evaporation with suction at 40° C. The solution was chilled to 4° C. for one day and the yellowish precipitate thus formed was recovered through filtration and dried. By this procedure, 12.5 gr of crude rifamycin SV were obtained (Purity=84%, Yield=93.8%).

reactant | acrylamide | Fifty grams | C(C=C)(=O)N | C3H5NO
reactant | rifamycin B | 2 l | CC1=C(C2=C3C(=CC(=C2O)NC(=O)/C(=C\C=C\C(C(C(C(C(C(C(C(/C=C/OC4(C(=O)C3=C1O4)C)OC)C)OC(=O)C)C)O)C)O)C)/C)OCC(=O)NC=5C=CC(=CC5)I)O | C45H53IN2O13
product | rifamycin SV | 12.5 gr, Yield=93.8% | CC1=C(C2=C3C(=CC(=C2O)NC(=O)/C(=C\C=C\[C@@H]([C@@H]([C@H]([C@H]([C@H]([C@@H]([C@@H]([C@H](/C=C/O[C@@]4(C(=O)C3=C1O4)C)OC)C)OC(=O)C)C)O)C)O)C)/C)O)O | C37H47NO12
